US08383619B2
A mixture of methyl 2,4-dihydroxy-5-isopropylbenzoate (420 mg, 2.0 mmol) and anhydrous potassium carbonate (662 mg, 4.8 mmol) in acetonitrile (10 ml) was treated with allyl bromide (0.364 ml, 4.2 mmol) and the mixture was stirred at room temperature for 16 hours. A further portion of allyl bromide (0.364 ml, 4.2 mmol) was added and the mixture was stirred and held at reflux for a further 16 hours. Upon cooling to room temperature the solvent was removed in vacuo and the residue acidified by the addition of 2M hydrochloric acid (20 ml). The organic material was extracted with ethyl acetate (2×20 ml) and the combined organic extracts were evaporated in vacuo to afford methyl 2,4-bis-allyloxy-5-isopropylbenzoate (480 mg, 83%) as a pale yellow oil. 1H NMR (DMSO-d6) 7.56 (1H, s), 6.68 (1H, s), 6.07 (2H, m), 5.51 (1H, dm), 5.44 (1H, dm), 5.28 (2H, m), 4.68 (2H, m), 4.64 (2H, m), 3.75 (3H, s), 3.18 (1H, m), 1.16 (6H, d). MS: [M+Na]+ 313.

reactant | methyl 2,4-dihydroxy-5-isopropylbenzoate | 2.0 mmol, 420 mg | OC1=C(C(=O)OC)C=C(C(=C1)O)C(C)C | C11H14O4
reactant | potassium carbonate | 4.8 mmol, 662 mg | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 4.2 mmol, 0.364 ml | C(C=C)Br | C3H5Br
reactant | allyl bromide | 4.2 mmol, 0.364 ml | C(C=C)Br | C3H5Br
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl 2,4-bis-allyloxy-5-isopropylbenzoate | 480 mg, 83% | C(C=C)OC1=C(C(=O)OC)C=C(C(=C1)OCC=C)C(C)C | C17H22O4
